US04719200
N-benzylsulfonyl-L-alanyl-L-prolyl-L-proline (1.00 q, 2.29 m mole) and L-arginine (0.399 g, 2.29 m mole) were added to water (50 ml) and stirred for 1 hour at room temperature to make a homogeneous solution. The solution was filtered and the thus obtained filtrate was freeze-dried to give N-benzylsulfonyl-L-alanyl-L-prolyl-L-proline L-arginine salt (1.30 g).

reactant | N-benzylsulfonyl-L-alanyl-L-prolyl-L-proline | C(C1=CC=CC=C1)S(=O)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C20H27N3O6S
reactant | L-arginine | 0.399 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | water | 50 ml | O | H2O
product | N-benzylsulfonyl-L-alanyl-L-prolyl-L-proline L-arginine salt | 1.30 g | N[C@@H](CCCNC(N)=N)C(=O)O.C(C1=CC=CC=C1)S(=O)(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | InChI=1S/C20H27N3O6S.C6H14N4O2/c1-14(21-30(28,29)13-15-7-3-2-4-8-15)18(24)22-11-5-9-16(22)19(25)23-12-6-10-17(23)20(26)27;7-4(5(11)12)2-1-3-10-6(8)9/h2-4,7-8,14,16-17,21H,5-6,9-13H2,1H3,(H,26,27);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t14-,16-,17-;4-/m00/s1
